US05244889
Potassium hexamethyldisilylamide (40.5 mL of a 0.58M solution in toluene, 23.5 mmol) is added to THF (60 mL), and then cooled to 0° C. t-Butyl dimethylphosphonoacetate (4.6 mL, 23.5 mmol) is added dropwise, and the reaction is warmed to room temperature and stirred for 25 minutes. Ethyl 2,3-di-oxo-1-azacyclodecane-10-carboxylate (2.83 g, 11.74 mmol) is added in THF (15 mL), and the reaction is stirred at room temperature for 2.5 hours. The reaction is quenched with saturated ammonium chloride, and then extracted several times with ethyl acetate. The combined organic layers are dried (MgSO4), and the solvent is evaporated. The product is purified by silica gel chromatography (30% ethyl acetate/hexane) to give ethyl 3-t-butoxycarbonylmethylidene-2-oxo-1-azacyclodecane-10-carboxylate.

reactant | t-Butyl dimethylphosphonoacetate | 23.5 mmol, 4.6 mL | COP(=O)(OC)CC(=O)OC(C)(C)C | C8H17O5P
reactant | Ethyl 2,3-di-oxo-1-azacyclodecane-10-carboxylate | 11.74 mmol, 2.83 g | O=C1NC(CCCCCCC1=O)C(=O)OCC | C12H19NO4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | ethyl 3-t-butoxycarbonylmethylidene-2-oxo-1-azacyclodecane-10-carboxylate | C(C)(C)(C)OC(=O)C=C1C(NC(CCCCCC1)C(=O)OCC)=O | C18H29NO5
